US07705023B2
5-(4-tert-Butylphenyl)-1-(4-(methylsulfonyl)phenyl)indole-2-carboxylic acid
The title compound was prepared in accordance with Example 8(c) using 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester and 4-(methylsulfonyl)phenylboronic acid, followed by hydrolysis in accordance with the procedure described in Example 1(c).

reactant | 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)C(C)(C)C | C21H23NO2
reactant | 4-(methylsulfonyl)phenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | 5-(4-tert-Butylphenyl)-1-(4-(methylsulfonyl)phenyl)indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C26H25NO4S
